US06677368B2
To a stirred solution of 1,5,6,7-tetrahydro-indol-4-one (5.4 g) in pyridine (40 mL) was added hydroxyammonium chloride (2 eq.) at rt. After 2 hours, the solvent was removed and the residue was diluted with water and extracted with ethyl acetate. The combined extracts were washed with brine, dried and concentrated to give 5.5 g of 1,5,6,7-tetrahydro-indol-4-one oxime as a pale yellow solid.

reactant | 1,5,6,7-tetrahydro-indol-4-one | 5.4 g | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | hydroxyammonium chloride | 2 eq. | [Cl-].O[NH3+]
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 1,5,6,7-tetrahydro-indol-4-one oxime | 5.5 g | N1C=CC=2C(CCCC12)=NO | C8H10N2O
